US05504244
A mixture of methyl 5-(4-hydroxybenzoyl)pentanoate (2 g), acetone (50 ml), potassium carbonate (2.34 g), and 1-bromobutane (2.0 ml) is gently refluxed for 4 hours. The reaction mixture is filtered and the filtrate concentrated in vacuo. The resulting brown solid is dissolved in ethanol (25 ml) and 2N sodium hydroxide (25 ml), and then refluxed for 4 hours. After washing with ether (100 ml), the aqueous layer is acidified to pH 1.0 with concentrated hydrochloric acid and the product extracted with ether (1×300 ml). The ether solution is dried over magnesium sulfate, filtered, and concentrated in vacuo. The product is recrystallized from ethanol/water to yield 5-(4-n-butoxybenzoyl)pentanoic acid (1.2 g), m.p. 95° C.

reactant | methyl 5-(4-hydroxybenzoyl)pentanoate | 2 g | OC1=CC=C(C(=O)CCCCC(=O)OC)C=C1 | C13H16O4
reactant | potassium carbonate | 2.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromobutane | 2.0 ml | BrCCCC | C4H9Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-(4-n-butoxybenzoyl)pentanoic acid | 1.2 g | C(CCC)OC1=CC=C(C(=O)CCCCC(=O)O)C=C1 | C16H22O4
